US04777281
7,8-Dichloro-6-methoxy-2-propylidene-1-tetralone (1.1 g) in 50 ml of 2-propanol and 150 mg of 5% Pd/C catalyst, were placed in a Parr apparatus and hydrogenated at 30 psi for 20 minutes. The reaction mixture was warmed slightly, the catalyst filtered, rinsed with 2-propanol, evaporated to dryness and chromatographed on 40 g SiO2 (ethyl acetae-hexane, 1:3) to yield 680 mg of 7,8-dichloro-6-methoxy-2-propyl-1-tetralone which melted at 127°-9° C. after recrystallization from ethyl acetate.

reactant | 7,8-Dichloro-6-methoxy-2-propylidene-1-tetralone | 1.1 g | ClC1=C(C=C2CCC(C(C2=C1Cl)=O)=CCC)OC | C14H14Cl2O2
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 7,8-dichloro-6-methoxy-2-propyl-1-tetralone | 680 mg | ClC1=C(C=C2CCC(C(C2=C1Cl)=O)CCC)OC | C14H16Cl2O2
